US05011849
5.0 g (23.12 mmol) of ethyl 4-phenyl-3-pyrazolecarboxylate were heated to 120° under reduced pressure for hours with 7.4 g (46.19 mmol) of t-butyl (2-aminoethyl)carbamate, whereby the ethanol formed was distilled off continuously. The reaction mixture was then taken up in methylene chloride and chromatographed on 150 g of silica gel with a 9:1, 8:2 and 7:3 mixture of methylene chloride and ethyl acetate as the eluting agent. The fractions which were pure according to the thin-layer chromatogram were combined and evaporated, and the residue was crystallized from ethyl acetate/hexane, whereby there were obtained 5.1 g (66.8%) of t-butyl [2-(4-phenylpyrazole-3carboxamido)ethyl]carbamate as white crystals, melting point 71°/162°-163° (still containing 0.05 mol of hexane).

reactant | ethyl 4-phenyl-3-pyrazolecarboxylate | 23.12 mmol, 5.0 g | C1(=CC=CC=C1)C=1C(=NNC1)C(=O)OCC | C12H12N2O2
reactant | t-butyl (2-aminoethyl)carbamate | 46.19 mmol, 7.4 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | ethanol | C(C)O | C2H6O
product | t-butyl [2-(4-phenylpyrazole-3carboxamido)ethyl]carbamate | 5.1 g, 66.8% | C1(=CC=CC=C1)C=1C(=NNC1)C(=O)NCCNC(OC(C)(C)C)=O | C17H22N4O3
